US03996204
Example 3 N-(p-Vinylbenzyl)-2-Methylethylenimine
The title compound was prepared in a manner analogous to Example 1. The components were ar-vinyl-benzyl chloride (approximately 95% para isomer, 0.249 mol.), potassium carbonate (50.0 g.), anhydrous methanol (1000 ml.) and 2-methylaziridine (70 ml.; 0.974 mol.). Distillation of the crude product (a brown oil) gave 7.6 g. of a water-white liquid boiling at about 85°C. under 0.2-0.3 mm. of Hg pressure. VPC analysis showed this fraction to contain 87.1% of the desired product. The product was obtained from the VPC fractionation and its structure confirmed by IR, NMR and elemental analysis.

reactant | ar-vinyl-benzyl chloride | 0.249 mol | C=CC1=CC(=CC=C1)CCl | C9H9Cl
reactant | potassium carbonate | 50.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 1000 ml | CO | CH4O
reactant | 2-methylaziridine | 0.974 mol, 70 ml | CC1NC1 | C3H7N
solvent | water | O | H2O
product | N-(p-Vinylbenzyl)-2-Methylethylenimine | 87.1% | C(=C)C1=CC=C(CN2C(C2)C)C=C1 | C12H15N
